US06713471B1
(6bR,10aS)-5-(2,3-dichlorophenyl)-1,2,6b,7,8,9,10,10a-octahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole
To a solution of tert-butyl(6bR,10aS)-5-(2,3-dichlorophenyl)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole carboxylate (10 mg, 0.21 mmol) in CH2Cl2 (4.0 mL) was added TFA (1.0 mL). The reaction mixture was stirred at 20° C. for 1 h then concentrated in vacuo. The residue was dissolved in H2O and the solution was adjusted to pH 2 by addition of 1N HCl. The aqueous layer was washed with Et2O then basified to pH 12 by addition of 50% NaOH. The solution was extracted with CHCl3, and the organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo to give the title compound as a pale yellow oil (79 mg, 99%). 1H NMR (CDCl3, 300 MHz) δ1.93-2.05 (br-s, 2H), 2.65-2.99 (m, 4H), 3.01-3.25 (m, 4H), 3.44-3.68 (m, 3H), 6.88 (s, 1H), 6.90 (s, 1H), 7.18 (d, J=4.6 Hz, 2H), 7.40 (t, J=4.6 Hz, 1H) ppm.

reactant | tert-butyl(6bR,10aS)-5-(2,3-dichlorophenyl)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole carboxylate | 0.21 mmol, 10 mg | ClC1=C(C=CC=C1Cl)C=1C=C2[C@@H]3[C@@H](N4C2=C(C1)SCC4C(=O)OC(C)(C)C)CCN=C3 | C24H24Cl2N2O2S
reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
product | (6bR,10aS)-5-(2,3-dichlorophenyl)-1,2,6b,7,8,9,10,10a-octahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole | 79 mg, 99% | ClC1=C(C=CC=C1Cl)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)SCC4)CCNC3 | C19H18Cl2N2S
